datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.C[C:63]([NH:12][C:11]1=[CH:10]CCC1)=[O:64]>>C[C:63]([NH+:12]=[C:11]1CCC[CH:10]1[CH:20]([CH:21]=[CH:22][N:23]1CCCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:64] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:21](=[O:20])C1.[CH:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]1>>C1CC[C-:21]([O:20][CH:10]([C:11]#[N:12])[C:61]2=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]2)C1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F.CC1=CC=[C:10]([B-:11]2(C3=CC=C(N(C)C)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1>>CC(C)(C1=C(I)C=CC=C1)[O-:21].CC1=CC=[C:10]([S:20]C(F)(F)F)S1.CN(C)C1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:62]2)C=C1 10,11=10,20;12=11,12;20,21=21"
"C1=C[C:71]2=[C:72](C=C1)[N:62]=[N:61][N-:10]2.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:23]1[CH:22]=[CH:21][CH:20]([N:10]1[N:61]=[N:62][C:72]2=[C:71]1C=CC=C2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C[N+:21](C)=[CH:20]Cl.[CH-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>C[N:21](C)[CH:20](Cl)[CH:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1 10=20;20,21=21"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1.FC(F)(F)[S:71](/[CH:10]=[C:11]1\[CH:12]=[CH:13][C:14](=[C:15]=[N-:16])[CH:63]=[CH:62]1)(=[O:72])=[O:82]>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([C:15]#[N:16])[CH:63]=[CH:62]2)[S:71](C(F)(F)F)(=[O:72])=[O:82])[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
"C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.CCCC[Sn:11](CCCC)(CCCC)[H:10]>>C1=CC=C([C:20]2([H:10])[S:31]CC[S:41]2)C=C1.CCCC[Sn+:11](CCCC)CCCC 10,11=10,20"
C[C-:10]([C:61](C)=[O:62])[C:71](C)=[O:72].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:10]([C:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)([C:61](C)=[O:62])[C:71](C)=[O:72] 10=20
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)=[C:11]([O-:12])[O:82]1.C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)([CH:20]([C:21]2=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:11](=[O:12])[O:82]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:11]2=[N:10]CCC[NH:12]2)C=C1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([N:10]2CCC[NH+:12]=[C:11]2C2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[C:65]1=[CH:64][CH:63]=[C:62]([CH:11]=[CH2:10])[CH:73]=[CH:75]1.[C:20](=[S:21])=[S:31]>>C[C:65]1=[CH:64][CH:63]=[C:62]([CH+:11][CH2:10][C:20]([S-:21])=[S:31])[CH:73]=[CH:75]1 10,11=10,20;20,21=21"
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.CC[O:61][C:111]([C-:10]([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112]>>CC[O:61][C:111]([C:10]([C:20]([O-:21])=[N:31]C1=CC=CC=C1)([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112] 10=20;20,21=21"
"F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1=[O:21].[H:10][BH2-:11][N+:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1([H:10])[O-:21].[BH2:11][N+:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;20,21=21"
"CCCC[O:72][C:11](=[CH2:10])[O:12][Si:63](C)(C)C(C)(C)C.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>CCCC[O:72][C:11]([CH2:10][CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1)=[O+:12][Si:63](C)(C)C(C)(C)C 10,11=10,20;12=11,12;20,21=21"
CC(C)[P:10](C(C)C)C(C)C.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>CC(C)[P+:10](C(C)C)(C(C)C)[C:20]1([C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1 10=20
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32].[CH-:10]([C:71]([C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)=[O:72])[N+:81](=[O:82])[O-:92]>>CC[O:33][C:31]([CH:20]([CH:10]([C:71]([C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)=[O:72])[N+:81](=[O:82])[O-:92])[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
